US04824834
The 1-chloromethyl-4-phenylthiobenzene (3.0 g) is dissolved in N,N-dimemthylformamide (15 ml), and thereto is added finely divided sodium cyanide (1.0 g), and the mixture is stirred at room temperature for 17 hours. To the reaction mixture are added saturated aqueous sodium chloride solution (50 ml) and ice water (50 ml), and the mixture is extracted with ethyl acetate (100 ml×3). The combined extracts are washed with saturated aqueous sodium chloride solution (50 ml×3), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 1-cyanomethyl-4-phenylthiobenzene (2.9 g).

reactant | 1-chloromethyl-4-phenylthiobenzene | 3.0 g | ClCC1=CC=C(C=C1)SC1=CC=CC=C1 | C13H11ClS
reactant | sodium cyanide | 1.0 g | [C-]#N.[Na+]
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
product | 1-cyanomethyl-4-phenylthiobenzene | 2.9 g | C(#N)CC1=CC=C(C=C1)SC1=CC=CC=C1 | C14H11NS
